US07468453B2
Preparation of 1R Cyhalothrin (II)
A 2 liter jacketed non-baffled split-neck reaction flask was equipped with an overhead stirrer (turbine), thermometer, condenser, two syringe pumps and was vented to a caustic/hypochlorite scrubber. To the reactor was charged sodium cyanide (29.4 g, 0.59 mol) in water (101 ml) and the reaction was agitated (100 rpm) for 10 min to ensure complete dissolution of the cyanide. Hexane (79 ml) was added to the reactor, then the reaction mass was cooled to 10° C. and the agitation rate adjusted to 235 rpm. 1R cis-Z 3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethyl cyclopropanecarboxylic acid chloride (133.2 g, 0.50 mol) and 3-phenoxybenzaldehyde (99 g, 0.50 mol) were added simultaneously to the reactor over 3 hr. Once the addition was complete the reaction was agitated for a further 17 hr at 10° C. GC analysis indicated the presence of un-reacted 3-phenoxybenzaldehyde, so a further charge of 1R cis-Z 3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethyl cyclopropanecarboxylic acid chloride was made (3.6 g, 0.014 mol) and the reaction agitated for a further 2 hr. The reaction mass was diluted with hexane (156 ml), and the aqueous layer allowed to settle before separation. Residual cyanide in the organic phase was destroyed with sodium hypochlorite liquor to a positive show on starch/iodide paper. The positive show for hypochlorite was removed with sodium bisulphite and the aqueous phase again settled and separated. The product oil weighed 228 g giving a yield of 97.8%. The composition of the product was—1R cis-Z-α-S diastereomer 45.5% and 1R cis-Z-α-R diastereomer 45.9%. GCMS (both diastereomers); 449 (M+), 349, 225, 208, 197, 181, 141 [α]D20: +29.8° (c=0.0104, DCM)

reactant | hypochlorite | Cl[O-]
reactant | sodium cyanide | 0.59 mol, 29.4 g | [C-]#N.[Na+]
reactant | cyanide | [C-]#N
reactant | cis-Z 3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethyl cyclopropanecarboxylic acid chloride | 0.50 mol, 133.2 g | Cl\C(=C/[C@H]1C([C@H]1C(=O)Cl)(C)C)\C(F)(F)F | C9H9Cl2F3O
reactant | 3-phenoxybenzaldehyde | 0.50 mol, 99 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
solvent | water | 101 ml | O | H2O
solvent | hexane | 156 ml | CCCCCC | C6H14
solvent | Hexane | 79 ml | CCCCCC | C6H14
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Cyhalothrin | yield of 97.8% | CC1(C(C1C(=O)OC(C#N)C=2C=CC=C(C2)OC=3C=CC=CC3)/C=C(/C(F)(F)F)\Cl)C | C23H19ClF3NO3
